* Z:\home\anagix\work\2020SepTO\OpAmp\2in1_tb1.asc
XX1 NC_01 N003 N004 N003 N006 N001 OUT1 OUT2 2in1
V1 N006 0 2.5
V2 N005 0 SINE(2.5 0.1 1k)
R1 N001 N005 10k
R2 OUT2 N001 100k
R3 N002 N001 100k
V3 N004 0 5
V4 N003 0 5

* block symbol definitions
.subckt 2in1 Vbias1 Vbias2 Vdd1 Vdd2 Vin+ Vin- Vout1 Vout2
XX1 Vin- Vin+ Vout1 Vdd1 Vbias1 0 opamp3ureiauto
XX2 Vin+ Vin- Vbias2 Vdd2 Vout2 0 opamp_k_niioka_20200903
.ends 2in1

.subckt opamp3ureiauto Vinm Vinp Vout VDD Vbias gnd
M1 N010 N010 gnd gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M2 N008 N008 N010 gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M3 N011 N010 gnd gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M4 N007 N008 N011 gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M5 N001 Vbias gnd gnd nch l=1u w=34u ad=7e-10 as=7e-10 pd=114e-6 ps=114e-6
M6 N006 Vbias gnd gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M10 Vout N009 gnd gnd nch l=1u w=100u ad=2.1e-9 as=2.1e-9 pd=314e-6 ps=314e-6
M11 N009 N010 gnd gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M12 VDD N007 N009 gnd nch l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M13 N002 N001 VDD VDD pch l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M14 N003 N003 N002 N002 pch l=1u w=38u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M15 N006 N006 N003 N003 pch l=1u w=38u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M16 N007 N006 N005 N005 pch l=1u w=19u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M17 N008 N006 N004 N004 pch l=1u w=19u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M18 N004 Vinm N002 N002 pch l=1u w=25u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M20 Vout N001 VDD VDD pch l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M21 N005 Vinp N002 N002 pch l=1u w=25u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M24 N001 N001 VDD VDD pch l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M7 Vbias Vbias gnd gnd nch l=1u w=34u ad=7e-10 as=7e-10 pd=114e-6 ps=114e-6
R1 VDD Vbias 40k
C1 Vout N007 3p
.inc ./models/OR1_mos
.ends opamp3ureiauto

.subckt opamp_k_niioka_20200903 in+ in- Vb Vdd out GND
M1 N002 N001 Vdd Vdd pch l=3u w=100u
M2 N001 N001 Vdd Vdd pch l=3u w=100u
M4 N001 in- N004 GND nch l=1u w=400u
M5 N002 in+ N004 GND nch l=1u w=400u
M6 N004 N003 GND GND nch l=2.5u w=120u
M7 N003 N003 GND GND nch l=2.5u w=10u
M8 out N003 GND GND nch l=1u w=120u
M3 out N002 Vdd Vdd pch l=1u w=240u
C1 N002 out 3p
R1 N003 Vb 40k
.include "./models/OR1_mos"
.ends opamp_k_niioka_20200903

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\anagix\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 10m
.backanno
.end
