* C:\users\1159\My Documents\work\2in1_OpAmp\amp2_CMRR2_tb.asc
V3 N002 0 5
XX1 A B OUT1 N002 NC_01 N007 opamp3ureiauto
R1 OUT1 A 10k
R2 A N004 1k
R3 B N008 1k
R4 B 0 10k
V2 0 N007 5
E1 N008 0 N004 0 1
V1 0 N004 V
V4 N001 0 5
XX2 C D OUT2 N001 NC_02 N005 opamp3ureiauto
R5 OUT2 C 10k
R6 C N003 1k
R7 D N006 1k
R8 D 0 10k
V5 0 N005 5
V6 N006 N003 V
R9 0 N003 0.01
R10 0 N006 0.01

* block symbol definitions
.subckt opamp3ureiauto Vinm Vinp Vout VDD Vbias gnd
M1 N010 N010 gnd gnd NCH l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M2 N008 N008 N010 gnd NCH l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M3 N011 N010 gnd gnd NCH l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M4 N007 N008 N011 gnd NCH l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M5 N001 Vbias gnd gnd NCH l=1u w=34u ad=7e-10 as=7e-10 pd=114e-6 ps=114e-6
M6 N006 Vbias gnd gnd NCH l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M10 Vout N009 gnd gnd NCH l=1u w=100u ad=2.1e-9 as=2.1e-9 pd=314e-6 ps=314e-6
M11 N009 N010 gnd gnd NCH l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M12 VDD N007 N009 gnd NCH l=1u w=16u ad=3.5e-10 as=3.5e-10 pd=64e-6 ps=64e-6
M13 N002 N001 VDD VDD PCH l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M14 N003 N003 N002 N002 PCH l=1u w=38u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M15 N006 N006 N003 N003 PCH l=1u w=38u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M16 N007 N006 N005 N005 PCH l=1u w=19u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M17 N008 N006 N004 N004 PCH l=1u w=19u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M18 N004 Vinm N002 N002 PCH l=1u w=25u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M20 Vout N001 VDD VDD PCH l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M21 N005 Vinp N002 N002 PCH l=1u w=25u ad=5.25e-10 as=5.25e-10 pd=89e-6 ps=89e-6
M24 N001 N001 VDD VDD PCH l=1u w=50u ad=1.05e-9 as=1.05e-9 pd=164e-6 ps=164e-6
M7 Vbias Vbias gnd gnd NCH l=1u w=34u ad=7e-10 as=7e-10 pd=114e-6 ps=114e-6
R1 VDD Vbias 40k
C1 Vout N007 1.0e-12
.inc ./models/OR1_mos
.ends opamp3ureiauto

.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\1159\My Documents\LTspiceXVII\lib\cmp\standard.mos
.include models/OR1_mos
;tran 0 1 0
;ac oct 10 1 100Meg
.dc V6 0 10
;tran 0 1 0
;ac oct 10 1 100Meg
* .dc V1 0 5
.backanno
.end
